US07888347B2
4-(6-Cyclopentyl-5,6,7,8-tetrahydropyrazolo[3,4-d]azepin-2(4H)-yl)benzamide (E23)
To a solution of 4-(5,6,7,8-tetrahydropyrazolo[3,4-d]azepin-2(4H)-yl)benzamide (may be prepared as described in Description 37) (31 mg, 0.12 mmol) in dichloromethane (3 ml) was added cyclopentanone (20 mg, 0.24 mmol) and acetic acid (2 drops). The resulting mixture was stirred at room temperature, under argon, for 20 minutes. Sodium triacetoxyborohydride (51 mg, 0.24 mmol) was added and stirring continued for 2 hours. A further 6 eq. of cyclopentanone was added and stirring continued over the weekend. Methanol was added and the crude mixture was purified by SCX, eluting with methanol and then with 2M ammonia/methanol. The basic fractions were combined and solvent evaporated in vacuo to afford the title compound (E23). MS (ES+) m/e 325 [M+H]+.

reactant | 4-(5,6,7,8-tetrahydropyrazolo[3,4-d]azepin-2(4H)-yl)benzamide | 0.12 mmol, 31 mg | N=1N(C=C2C1CCNCC2)C2=CC=C(C(=O)N)C=C2 | C14H16N4O
reactant | cyclopentanone | 0.24 mmol, 20 mg | C1(CCCC1)=O | C5H8O
reactant | Sodium triacetoxyborohydride | 0.24 mmol, 51 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | cyclopentanone | 6 eq. | C1(CCCC1)=O | C5H8O
reactant | Methanol | CO | CH4O
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
catalyst | acetic acid | 2 drops | C(C)(=O)O | C2H4O2
product | 4-(6-Cyclopentyl-5,6,7,8-tetrahydropyrazolo[3,4-d]azepin-2(4H)-yl)benzamide | C1(CCCC1)N1CCC=2C(CC1)=CN(N2)C2=CC=C(C(=O)N)C=C2 | C19H24N4O
